US06953806B2
To a solution of 18.7 g (59.7 mmol) of trans-acetic acid 4-[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-cyclohexylmethyl ester in 110 ml of methanol was added 41.25 g (298.5 mmol) of potassium carbonate. The reaction mixture was then stirred for 2 hours at room temperature. The excess of potassium carbonate was removed by filtration and the methanol was removed by evaporation under reduced pressure. The crude residue was partitioned between ether, 1N hydrogen chloride solution and water. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure and the residue then chromatographed on silica gel with a 2:1 v/v mixture of hexane and ethylacetate as the eluent giving 13.9 g (86.0%) of pure trans-[2-(4-hydroxymethyl-cyclohexyl)-ethyl]-methyl-carbamic acid tert-butyl ester as colorless viscous oil, MS 272 (MH+).

reactant | trans-acetic acid 4-[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-cyclohexylmethyl ester | 59.7 mmol, 18.7 g | C(C)(C)(C)OC(=O)N(CC[C@@H]1CC[C@H](CC1)COC(C)=O)C | C17H31NO4
reactant | potassium carbonate | 298.5 mmol, 41.25 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 110 ml | CO | CH4O
product | trans-[2-(4-hydroxymethyl-cyclohexyl)-ethyl]-methyl-carbamic acid tert-butyl ester | 13.9 g, 86.0% | C(C)(C)(C)OC(N(C)CC[C@@H]1CC[C@H](CC1)CO)=O | C15H29NO3
